US09278922B2
(R)-ethyl 4-(2-tert-butoxy-2-oxo-1-phenylethylamino)butanoate
A mixture of (R)-tert-butyl 2-amino-2-phenylacetate hydrochloride (0.5 g, 2.051 mmol), ethyl 4-bromobutanoate (0.44 g, 2.26 mmol), and K2CO3 (1.13 g, 8.21 mmol) in CH3CN (10 mL) was heated to 50° C. for 40 hours. The mixture was diluted with EtOAc and then washed with H2O and brine. The organic was then dried (MgSO4), filtered and concentrated. Purification by chromatography (silica gel, 40% EtOAc in Hexanes) afforded 486 mg (74%) of the title compound. MS (ESI) m/z 322 (M+H)+.

reactant | (R)-tert-butyl 2-amino-2-phenylacetate hydrochloride | 2.051 mmol, 0.5 g | Cl.N[C@@H](C(=O)OC(C)(C)C)C1=CC=CC=C1
reactant | ethyl 4-bromobutanoate | 2.26 mmol, 0.44 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | K2CO3 | 8.21 mmol, 1.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-ethyl 4-(2-tert-butoxy-2-oxo-1-phenylethylamino)butanoate | 486 mg, 74% | C(C)(C)(C)OC([C@@H](C1=CC=CC=C1)NCCCC(=O)OCC)=O | C18H27NO4
